US04312870
One gram of 2-(p-cyanophenyl)-pyrazolo[4,3-c]quinolin-3(5H)-one, 3.50 ml of 1 N aqueous sodium hydroxide and 10 ml of ethanol are mixed and stirred at room temperature until the solid has dissolved. The solution is then treated with 1.4 ml of 30% hydrogen peroxide, giving an immediate precipitate. After stirring for 2 hours at room temperature, the mixture is filtered, and the solid is crystallized from dimethylformamide, to yield the 2-(p-carbamoylphenyl)-pyrazolo [4,3-c]quinolin-3(5H)-one, showing peaks in the IR-spectrum at 885, 853, 830, 785, 775, 752 and 732 cm-1.

reactant | 2-(p-cyanophenyl)-pyrazolo[4,3-c]quinolin-3(5H)-one | One gram | C(#N)C1=CC=C(C=C1)N1N=C2C(=CNC=3C=CC=CC23)C1=O | C17H10N4O
reactant | sodium hydroxide | 1 N, 3.50 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 1.4 ml | OO | H2O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(p-carbamoylphenyl)-pyrazolo [4,3-c]quinolin-3(5H)-one | C(N)(=O)C1=CC=C(C=C1)N1N=C2C(=CNC=3C=CC=CC23)C1=O | C17H12N4O2
